US04994489
4-[(5,6,7,8-Tetrahydro-5,5,8,8-tetramethylnaphth-2-yl)ethynyl]-benzoic acid
22.6 g (0.06 mole) of diethyl 1-chloro-1-(5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphth-2-yl)-methylphosphonate (about 85% strength) and 9 g of 4-carboxybenzaldehyde in 190 ml of dry dimethyl sulfoxide were initially taken. 21 g (0.185 mole) of potassium tert.-butylate in 65 ml of dimethyl sulfoxide were added dropwise to the stirred mixture at room temperature. Stirring was continued for 1 hour, after which the reaction mixture was poured onto 1 liter of ice water and acidified with 20% strength sulfuric acid. The resulting precipitate was filtered off under suction, washed with water and recrystallized from isopropanol to give 14 g (70%) of the title compound. Carrying out recrystallization twice more gave 6 g of pure material of melting point 263°-264° C.

reactant | diethyl 1-chloro-1-(5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphth-2-yl)-methylphosphonate | 0.06 mole, 22.6 g | ClC(C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)P(OCC)(OCC)=O | C19H30ClO3P
reactant | 4-carboxybenzaldehyde | 9 g | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | dimethyl sulfoxide | 190 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 65 ml | CS(=O)C | C2H6OS
product | 4-[(5,6,7,8-Tetrahydro-5,5,8,8-tetramethylnaphth-2-yl)ethynyl]-benzoic acid | 14 g, 70% | CC1(C=2C=CC(=CC2C(CC1)(C)C)C#CC1=CC=C(C(=O)O)C=C1)C | C23H24O2
